US07629363B2
Step 1: Preparation of 3-(2,2-dimethyl-4-oxo-4H-1,3-dioxin-6-yl)-2-oxopropyl acetate
A solution of 2,2,6-trimethyl-4H-1,3-dioxin-4-one (20 g, 141 mmol) in dry THF (400 mL) was cooled to −78° C. To this solution was slowly added a LiHMDS (1M-THF, 160 mL, 160 mmol). The resulting solution was maintained at −78° C. with stirring for 30 min. To the reaction mixture was added acetoxy acetylchloride (17 mL, 160 mmol) and the resulting mixture was maintained at −78° C. for at 1 h. The reaction was then allowed to slowly warm to rt and stir for an additional 1 h. The reaction was then quenched with addition of a 1N solution of ammonium chloride. The layers were separated and the aqueous layer was extracted with ethyl acetate (5×). The organics were combined, dried, and concentrated in vacuo. The crude product was purified using a medium pressure liquid chromatography biotage system. Elution with hexanes-ethyl acetate (3:1) gave 13.1 g (38%) of a red-brown oil. The product looks clean by NMR. 1H NMR (300 MHz, CDCl3) δ 5.42 (s, 1H), 4.75 (s, 2H), 3.41 (s, 2H), 2.22 (s, 3H), 1.75 (s, 6H).

reactant | 2,2,6-trimethyl-4H-1,3-dioxin-4-one | 141 mmol, 20 g | CC1(OC(=CC(O1)=O)C)C | C7H10O3
reactant | LiHMDS | 160 mmol, 1M, 160 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | acetoxy acetylchloride | 160 mmol, 17 mL | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 3-(2,2-dimethyl-4-oxo-4H-1,3-dioxin-6-yl)-2-oxopropyl acetate | 13.1 g, 38% | C(C)(=O)OCC(CC1=CC(OC(O1)(C)C)=O)=O | C11H14O6
